US08017607B2
To a solution of (aminomethyl)trimethylsilane (Fluka) (1.03 g, 10 mmol) in dichloromethane (20 mL) was added 3,3-dimethyl-butyraldehyde (Aldrich) (1.0 g, 10 mmol). The reaction mixture was stirred at room temperature for 3 h. Water was added. The organic layer was separated, washed with brine, dried over MgSO4, and concentrated to give [3,3-dimethyl-but-(E)-ylidene]-trimethylsilanylmethyl-amine as a colorless oil (1.8 g, 97%).

reactant | (aminomethyl)trimethylsilane | 10 mmol, 1.03 g | NC[Si](C)(C)C | C4H13NSi
reactant | 3,3-dimethyl-butyraldehyde | 10 mmol, 1.0 g | CC(CC=O)(C)C | C6H12O
reactant | Water | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | [3,3-dimethyl-but-(E)-ylidene]-trimethylsilanylmethyl-amine | 1.8 g, 97% | CC(C\C=N\C[Si](C)(C)C)(C)C | C10H23NSi
